US05137877
4-(N-boc-hydrazino)benzoic acid
p-Hydrazinobenzoic acid (760 mg, 5 mmol) was dissolved in dioxane (10 ml), water (5 ml), and 1 N NaOH solution (5 ml). Di-t-butylpyrocarbonate (1.31 g, 6 mmol) was added at 0° C. and the reaction mixture was stirred at 0° C. for 1 h and at RT for 30 min. After this period the volume of the solution was reduced to a half and the solution was acidified with 0.5% HCl solution and extracted with EtOAc. The combined EtOAc solution was washed with brine and dried over Na2SO4. Removal of the solvent gave a slightly brown solid which was recrystallized from EtOAc and hexane (950 mg, 75%), and was characterized as follows: NMR (CD3OD) δ 7.84 (d, 2H, J=8.5 Hz), 6.75 (d, 2H, J=8.5 Hz), 1.4s (s, 9H); IR (KBr) 3316, 1688, 1607, 1298 cm-1.

reactant | p-Hydrazinobenzoic acid | 5 mmol, 760 mg | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | NaOH | 1 N, 5 ml | [OH-].[Na+]
reactant | Di-t-butylpyrocarbonate | 6 mmol, 1.31 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 4-(N-boc-hydrazino)benzoic acid | C(=O)(OC(C)(C)C)N(N)C1=CC=C(C(=O)O)C=C1 | C12H16N2O4
